US08703784B2
A mixture of 3-(6-phenylpyridin-3-yl)-5-(piperidin-4-yl)-8,9-dihydropyrazolo[1,5-a]pyrido[3,2-e]pyrimidin-6(7H)-one (70 mg, 0.17 mmoL), 1H-1,2,4-triazole-3-carboxylic acid (20.5 mg, 0.18 mmoL), EDC (63 mg, 0.33 mmoL), HOBt (44.6 mg, 0.33 mmoL) and DIEA (172.2 uL, 0.99 mmoL) in DMF (3 mL) was stirred at room temperature for 2 h. Purification with prep-LC provided 5-(1-(4H-1,2,4-triazole-3-carbonyl)piperidin-4-yl)-3-(6-phenylpyridin-3-yl)-8,9-dihydropyrazolo[1,5-a]pyrido[3,2-e]pyrimidin-6(7H)-one: LCMS tR=3.15 Min (10 min run, UV254nm). Mass calculated for, M+ 519.2, observed LC/MS m/z 519.97 (M+H).

reactant | 3-(6-phenylpyridin-3-yl)-5-(piperidin-4-yl)-8,9-dihydropyrazolo[1,5-a]pyrido[3,2-e]pyrimidin-6(7H)-one | 70 mg | C1(=CC=CC=C1)C1=CC=C(C=N1)C=1C=NN2C1N=C(C1=C2NCCC1=O)C1CCNCC1 | C25H24N6O
reactant | 1H-1,2,4-triazole-3-carboxylic acid | 20.5 mg | N1N=C(N=C1)C(=O)O | C3H3N3O2
reactant | HOBt | 44.6 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 172.2 uL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EDC | 63 mg
product | 5-(1-(4H-1,2,4-triazole-3-carbonyl)piperidin-4-yl)-3-(6-phenylpyridin-3-yl)-8,9-dihydropyrazolo[1,5-a]pyrido[3,2-e]pyrimidin-6(7H)-one | N=1N=C(NC1)C(=O)N1CCC(CC1)C1=NC=2N(C3=C1C(CCN3)=O)N=CC2C=2C=NC(=CC2)C2=CC=CC=C2 | C28H25N9O2
